US04971982
10 ml of a 1.2M solution of butyllithium in n-hexane were added to a solution of 1.68 ml of diisopropylamine in 10 ml of tetrahydrofuran while stirring at -78° C. under a nitrogen atmosphere. The solution was stirred for a further 15 minutes and then 0.94 g of 2-methylpyrazine in 20 ml of tetrahydrofuran was added. The solution was allowed to warm to 20° C. and was stirred for 1 hour. The solution was then cooled to -78° C., 2.33 g of ethyl 2-(4-cyanophenoxy)-2-methylpropionate in 30 ml of tetrahydrofuran were added and the mixture was allowed to warm to 20° C. The mixture was treated with 20 ml of water and the solvent was removed by evaporation. The residue was chromatographed on silica gel using ethyl acetate for the elution to give 1.37 g of 4-[1,1-dimethyl-2-oxo-3-(2-pyrazinyl)propoxy]benzonitrile.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 1.68 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylpyrazine | 0.94 g | CC1=NC=CN=C1 | C5H6N2
reactant | ethyl 2-(4-cyanophenoxy)-2-methylpropionate | 2.33 g | C(#N)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C13H15NO3
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 4-[1,1-dimethyl-2-oxo-3-(2-pyrazinyl)propoxy]benzonitrile | 1.37 g | CC(C(CC1=NC=CN=C1)=O)(OC1=CC=C(C#N)C=C1)C | C16H15N3O2
